US09359625B2
6-carboxylic acid-2-[(2E)-3,7-dimethylocta-2,6-dienyl]-5-pentyl-benzene-1,3-diol, Cannabigerolic Acid (CBGA) was prepared as follows. To a 10 mL conical flask was added 1 mL of a DMF solution of MMC. To this solution was added 2-[(2E)-3,7-dimethylocta-2,6-dienyl]-5-pentyl-benzene-1,3-diol (120 mg, 0.379 mmol). The flask was heated at 120° C. for 1 hour, following which the reaction mixture was dissolved in 100 mL of chloroform:methanol (2:1) solution. The pH of this solution was adjusted with dilute HCl to pH 2.0, and then partitioned using 50 mL H2O.

reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | 2-[(2E)-3,7-dimethylocta-2,6-dienyl]-5-pentyl-benzene-1,3-diol | 0.379 mmol, 120 mg | C\C(=C/CC1=C(C=C(C=C1O)CCCCC)O)\CCC=C(C)C | C21H32O2
reactant | HCl | Cl | ClH
reactant | chloroform methanol | 100 mL | C(Cl)(Cl)Cl.CO
product | Cannabigerolic Acid | CCCCCC=1C=C(C(=C(C1C(=O)O)O)C/C=C(\C)/CCC=C(C)C)O | C22H32O4
